US06174458B1
Mixture of (4-pentyl-1-cyclohexenyl)-3,5-difluorobenzene (89 mmol), Raney nickel (3.5 g), and 500 ml of Solmix was subjected to a hydrogenation reaction at room temperature under normal pressure for 10 hours. At the time when the amount of hydrogen has come not to further reduce and the reaction has come not to progress, catalyst was changed from Raney nickel to palladium carbon (2.4 g), and stirred for 8 hours. Palladium carbon was filtered off and the solvent was distilled off. The residue was purified by column chromatography (eluent: heptane) to give a (4-pentyl-cyclohexyl)-3,5-difluorobenzene (81 mmol).

reactant | (4-pentyl-1-cyclohexenyl)-3,5-difluorobenzene | 89 mmol | C(CCCC)C1CC=C(CC1)C1=CC(=CC(=C1)F)F | C17H22F2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 3.5 g | [Ni] | Ni
catalyst | palladium carbon | 2.4 g | [C].[Pd]
product | (4-pentyl-cyclohexyl)-3,5-difluorobenzene | 81 mmol | C(CCCC)C1CCC(CC1)C1=CC(=CC(=C1)F)F | C17H24F2
